US06207693B1
To a solution of N-[2-(4-aminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (120 mg) in dichloromethane (10 ml) was added acetic anhydride (23.8 mg) and the mixture was stirred at ambient temperature for 1 hour. The solution was washed with water and brine and dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by silica gel column (2% methanol in chloroform) and the product was solidified with diethyl ether to give N-[2-(4-acetylaminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (87 mg).

reactant | N-[2-(4-aminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 120 mg | NCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C | C29H33N5O4
reactant | acetic anhydride | 23.8 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(4-acetylaminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 87 mg | C(C)(=O)NCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C | C31H35N5O5
